Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left maxillary swelling, erythema, and pain.

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a history of hypertension and Ménière's disease who is 
presenting with one day of left sided ear and jaw pain. 3 weeks 
ago she had 6 teeth removed by an oral surgeon with subsequent 
infection requiring Augmentin. She improved over this past week, 
but has since had recurrence of pain starting last night. 
Tylenol has temporarily eased the pain but this has been 
worsening and is associated with increased swelling and 
spreading of the pain to the left side of her head and down her 
jaw. She has occasional nondrinking night sweats but otherwise 
denies cough, sputum production, drainage from the inside of her 
mouth, nausea, vomiting, diarrhea, and fever. She has had all of 
her vaccinations including mumps. She has a history of recurrent 
ear infections as a child and adult and has never seen a surgeon 
for these complaints.  
 In the ED initial vitals were 8 97.5 93 120/70 16 100% RA. The 
patient was in significant pain. CT of the sinus/maxillofacial 
showed 1. Irregular 2.3 cm ill-defined hypodensity in the left 
lateral pterygoid muscle and temporalis muscle adjacent to the 
left mandible concerning for phlegmon/developing abscess. No 
definite evidence of bony erosion or corticalirregularity to 
suggest bony involvement. Asymmetric enlargement of the left 
temporalis muscle.  
 2. Bilateral mildly enlarged cervical lymph nodes are likely 
reactive in nature.  
 3. Right maxillary molar periapical lucencies concerning for 
odontogenic disease, infection not excluded.  
 PE in the ED was significant for left carotid gland and 
mandibular region on the left is swollen without redness. 
Patient is only able to open her mouth about 2 cm. It is 
difficult to see her oropharynx because of this. No overt areas 
edema in the oropharynx or drainage. Labs were significant for 
WBC of 15.7. Patient was given IVF, Tylenol and oxycodone. OMFS 
was consulted and recommended admission to medicine for IV abx 
with Unasyn. They will follow.  
 On the floor, VS were 97.6 128/63 74 20 95 on RA. The patient 
was accompanied by her daughter who helped with translation. The 
patient was severely nauseous and vomited once during the 
interview. She described ___ pain that was improved from 
downstairs. She felt as though the pain medication made her 
nauseous.  

 
Past Medical History:
HTN  
Ménière's Disease  

 
Social History:
___
Family History:
Non contributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================  
Vital Signs: 97.6 128/63 74 20 95 on RA  
General: Alert, oriented, no acute distress  
HEENT: left carotid gland and mandibular region on the left is 
swollen without redness; patient unable to open mouth to get 
significant exam, however patient was breathing comfortably and 
no stridor was auscultated  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM:
==========================
Vitals: T=98.0 BP=125/65 HR=80 RR=18 SpO2=100% RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, patient cannot open mouth >3cm 
(improved compared to yesterday)
Neck: Supple, swelling overlying left mandible (erythema. absent 
left cervical LAD. No JVD.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops
Abdomen: Obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNs2-12 intact, motor function grossly normal
 
Pertinent Results:
ADMISSION LABS:
================
___ 01:00PM BLOOD WBC-15.7* RBC-4.01 Hgb-12.4 Hct-37.4 
MCV-93 MCH-30.9 MCHC-33.2 RDW-14.2 RDWSD-47.7* Plt ___
___ 01:00PM BLOOD Neuts-76.6* Lymphs-12.7* Monos-6.6 
Eos-3.0 Baso-0.4 Im ___ AbsNeut-___* AbsLymp-1.99 
AbsMono-1.03* AbsEos-0.47 AbsBaso-0.07
___ 01:00PM BLOOD Glucose-93 UreaN-18 Creat-0.8 Na-138 
K-4.5 Cl-99 HCO3-25 AnGap-19
___ 06:10AM BLOOD Calcium-8.2* Phos-3.4 Mg-1.8
___ 01:18PM BLOOD Lactate-1.9

DISCHARGE LABS:
===============
___ 06:40AM BLOOD WBC-11.1* RBC-3.61* Hgb-11.1* Hct-34.3 
MCV-95 MCH-30.7 MCHC-32.4 RDW-14.1 RDWSD-49.2* Plt ___
___ 06:40AM BLOOD Glucose-86 UreaN-10 Creat-0.5 Na-140 
K-5.1 Cl-106 HCO3-22 AnGap-17
___ 06:40AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.1

MICROBIOLOGY:
=============
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:
========
CT Sinus/Maxillary ___:
1. Irregular 2.3 cm ill-defined hypodensity in the left lateral 
pterygoid 
muscle and temporalis muscle adjacent to the left mandible 
concerning for 
phlegmon/developing abscess.  No definite evidence of bony 
erosion or cortical irregularity to suggest bony involvement.  
Asymmetric enlargement of the left temporalis muscle. 
2. Bilateral mildly enlarged cervical lymph nodes are likely 
reactive in 
nature. 
3. Right maxillary molar periapical lucencies concerning for 
odontogenic 
disease, acute infection not excluded. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a PMHx of hypertension 
and Ménière's disease who presented with one day of left-sided 
ear and jaw pain secondary to a soft tissue infection of the 
left mandible w/ phlegmon vs. abscess following a recent oral 
surgery.

# Left mandibular phlegmon
Patient presented with infection of the soft tissue of the left 
mandible with a phlegmon/developing abscess secondary to recent 
tooth extraction. Patient evaluated by ___ who suggested 
treatment with IV abx, and re-evaluation for a response given 
the uncertainty of a drainable collection. Patient was afebrile 
and HD stable on admission and remained so throughout her 
hospital stay. The patient received Unasyn 3g Q6H for 4 days 
with WBC count slowly downtrending and the swelling and pain 
improving with close to complete resolution at discharge. The 
patient was discharged on 2 weeks of Augmentin 875/125 PO twice 
daily with plans to be followed-up by oral surgery as an 
outpatient. As she had clinically improved with a downtrending 
WBC, afebrile during her stay, pain resolving (she did not 
require any pain medication at all, not even tylenol on the day 
of discharge), and tolerating a diet. She had mild but improved 
swelling at the site. The patient felt that she was ready for 
discharge home. She was discharged after several attempts were 
made to contact ___. Following the discharge I was contacted by 
___ resident to discuss the patient's discharge. They felt that 
she may have a small abscess that might need to be drained if 
she did not continue to improve. I offered to have the patient 
readmitted but they felt that the surgery was not urgent and 
felt that the patient could follow up in ___ clinic on ___ 
___ and if surgery necessary would add her on to the schedule 
for ___. The ___ resident reported that they would 
call and communicate the plan with the patient's family to make 
sure they are seen in clinic. The patient was seen in clinic and 
continued to improve and as of ___ there were no plans for 
surgery but would continue to follow up in the ___ clinic

*** TRANSITIONAL ISSUES ***
# Patient to continue antibiotic therapy for 2 weeks following 
discharge. Will be on Augmentin 875/125 PO q12h (last day 
___
-Needs oral surgery follow-up for further management
# CODE STATUS: Full
# Contact: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 120 mg PO Q24H 
2. Indapamide 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*27 Tablet Refills:*0 
2.  Indapamide 2.5 mg PO DAILY  
3.  Verapamil SR 120 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Soft tissue infection of the left mandible

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you had an 
infection of the skin and tissue of your left jaw after you 
dental procedure. In the hospital, you received intravenous 
antibiotics for 4 days and your swelling, redness, and pain 
decreased significantly. You will need to continue your 
treatment with antibiotic pills for the next 2 weeks. It is 
important that you complete the entire course so that your 
infection does not come back. 

We wish you a speedy recovery,
Your ___ Care Team

 
Followup Instructions:
___